US05760021
A mixture of 1 g of 1-methyl-2-(2-carboxy-2-hydroxy-2-phosphonoethyl)pyridinium iodide and 0.5 g of palladium on charcoal catalyst in 50 ml of distilled water is hydrogenated on a Parr apparatus at 40 PSI for about 2 days. The catalyst is removed by filtration, and the filtrate is evaporated to dryness. The residue is triturated with ethanol to give a solid which is collected by filtration. It is recrystallized from water/ethanol to afford 2-hydroxy-3-(1-methyl-2-piperidinyl)-2-phosphonopropanoic acid.

reactant | 1-methyl-2-(2-carboxy-2-hydroxy-2-phosphonoethyl)pyridinium iodide | 1 g | [I-].C[N+]1=C(C=CC=C1)CC(P(=O)(O)O)(O)C(=O)O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | water | 50 ml | O | H2O
product | 2-hydroxy-3-(1-methyl-2-piperidinyl)-2-phosphonopropanoic acid | OC(C(=O)O)(CC1N(CCCC1)C)P(=O)(O)O | C9H18NO6P
